2153-10-22 00:16:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77W recent NSTEMI requiring 3 stents [**8-29**]. This was complicated by
   cadiogenic shock requiring balloon pump for 3 days. She was ultimately
   transferred to rehab.
   In rehab has experienced hemoptysis and persistent CP. Today dyspnea
   worsened and referred to ER. In ER she was hypotensive and CXR showed
   right pneumomonia. She was placed on levophed. An echo showed EF 20%.
   24 Hour Events:
                               History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Respiratory: Cough, hemoptysis
   Flowsheet Data as of  [**2153-10-22**] 12:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 68 (68 - 75) bpm
   BP: 116/37(56) {78/37(56) - 116/68(77)} mmHg
   RR: 31 (25 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 10)mmHg
   Total In:
                                                                  1,591 mL
   PO:
   TF:
   IVF:
                                                                  1,091 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                      0 mL
   Urine:
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 4 LPM
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : right)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383
   230 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   37 mg/dL
   99 mEq/L
   133 mEq/L
   29
   20
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
   Cr
   1.6
   TropT
   1.93
   Glucose
   230
   Other labs: CK / CKMB / Troponin-T:94//1.93, Lactic Acid:2.1 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR RML pna
   ECG: NSR 70, Q's
   Assessment and Plan
   pna - will treat for hospital acquired pna
   shock - suspect related to infection in setting of depressed EF, will
   continue levophed and gentle hydration
   coagulopahty - unclear cause, will give vitamin K
   renal insufficiency - follow
   recent MI, cardiomyopathy - cont ASA and plavix, hold
   anti-hypertensives
   DM - SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   20 Gauge - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: (coagulopathic)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2153-10-22 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2153-10-21**] 09:30 PM
 TRANSTHORACIC ECHO - At [**2153-10-21**] 10:00 PM
   - multiple failed a-line attmpts
   - started on levophed overnight
   - during rounds, decompensated, did not tolearate weaning of levophed,
   switched to neo.
   -intubated during rounds for increased work of breathing; gas prior to
   intubation 7.34/41/74  with lactate 2.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-22**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 71 (65 - 75) bpm
   BP: 115/59(72) {78/37(56) - 116/68(77)} mmHg
   RR: 30 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  1,591 mL
                                                                    434 mL
   PO:
   TF:
   IVF:
                                                                  1,091 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    375 mL
   Urine:
                                                                    140 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   510 K/uL
   9.7 g/dL
   206 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   134 mEq/L
   29.0 %
   30.8 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
   WBC
   30.8
   Hct
   29.0
   Plt
   510
   Cr
   1.6
   1.4
   TropT
   1.93
   1.48
   Glucose
   230
   206
   Other labs: PT / PTT / INR:45.1/44.5/4.8, CK / CKMB /
   Troponin-T:79//1.48, Lactic Acid:2.1 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Assessment and Plan
   77 yo female s/p recent STEMI (based on q-waves and severly depressed
   ef, record pending) at OSH 10 days ago, s/p 3 stents IABP x 3 days for
   cardiogenic shock; had pneumonia treated with flagyl and levaquin,
   presented from rehab with increasing SOB and diarrhea, in septic shock
   requiring pressors
   # Hypotension:  Given distributive shock, o2 requirement, and CXR
   infiltrate, this is most likely septic shock from RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  CDIFF may also be contributing.  Given CVP=12,
   stable EKG, and CE trending down, favor sepsis over cardiogenic shock,
   but will continue to rule out MI given worsened status this am.
   - F/U cultures
   - SWITCH vanc/zosyn to vanco/cefepime/cipro
   - Trend CEs, serial EKGs
   - Obtain records from [**Hospital3 1004**]
   - Follow up final ECHO
   - favor neo over levophed given recent MI and acutely depressed EF.
   # Hypoxemic respiratory failure / increased work of breathing: Likely
   [**1-22**] PNA with some contributiion from astma given severe wheezing on
   exam.  Other concern would be LV failure from ischemia, but arguing
   against this is CVP=12avg.
   - s/p intubation; needs a-line
   - steroidsx 5 days, MDIs
   # Diarrhea:  Empiric CDIFF covg given marked leukocytosis with PO
   vanco. f/u cdiff tox x2
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes trending down
   suggesting that ACS is not contributing. EKG relatively stable, some
   rate dependent ST depressions inferiorly.
   - Serial CEs, EKGs
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   - favor neo over levophed as above
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - supratherapeutic
   # Coagulopathy:  Was on coumadin for afib at [**Hospital 7735**].  Only slight
   oozing at RIJ site and mild hemoptysis.  Also with elevated PTT.-
   Follow coags; hold coumadin, check DIC labs
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-22 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CL placed
   - TTE (bedside by fellow) - EF 20%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Asa, Plavix, Zantac, RISS, Atrovent nebs, Advair, Vanco 1gm q48,
   Atorvastatin, PO vanc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2153-10-22**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 71 (65 - 75) bpm
   BP: 115/59(72) {78/37(56) - 116/68(77)} mmHg
   RR: 30 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  1,591 mL
                                                                    462 mL
   PO:
   TF:
   IVF:
                                                                  1,091 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    375 mL
   Urine:
                                                                    140 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   510 K/uL
   206 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   134 mEq/L
   29.0 %
   30.8 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
   WBC
   30.8
   Hct
   29.0
   Plt
   510
   Cr
   1.6
   1.4
   TropT
   1.93
   1.48
   Glucose
   230
   206
   Other labs: PT / PTT / INR:45.1/44.5/4.8, CK / CKMB /
   Troponin-T:79//1.48, Lactic Acid:2.1 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Imaging: CXR - RML infiltrate
   Microbiology: Pending.
   Assessment and Plan
   Patient is 77 yo female with PMHx sig. for recent massive NSTEMI at OSH
   10 days ago, s/p 3 stents complicated by cardiogenic shock requiring
   IABP x 3 days and pneumonia treated with flagyl and levaquin, who
   presents from rehab with increasing SOB, found to be hypotensive.
   # Hypotension:  This is mostly likely septic shock from RLL pneumonia
   in the setting of poor EF from recent massive NSTEMI.  Pt is also
   reporting diarrhea and may have developed c. diff though on flagyl.  In
   addition, U/A is equivocal.  As far as cardiogenic reasons for shock,
   EF is 20% on prelim ECHO read and reportedly stable per son-in-law.
   Unlikely to have restent thrombosis or second ACS event as CK, CK-MB
   are flat.  Trop is likely coming down.  Unfortuantely, there are no
   records from [**Hospital3 1004**] available yet.  Patient may also be slightly
   volume depleted.
   - bcxs, ucx, sputum cx, c. diff
   - broaden coverage for HAP with vanc/zosyn
   - trend CEs, serial EKGs
   - obtain records from [**Hospital3 1004**]
   - follow up final ECHO
   - IVFs, difficult to have CVP goal given recent massive MI
   - cont. levophed
   - needs aline
   # Diarrhea:  Pt reports 1 week of diarrhea.  Unlikely to be C. diff
   given co-treatment of levaquin with flagyl.
   - check c. diff
   - hold on c. diff treatment for now
   # CAD, s/p recent STEMI, now with EF 20%:  EKG shows no acute ischemic
   changes, per Cardiology, just massive anterior MI.
   - serial CEs, EKGs
   - cont. ASA, plavix, high dose atorvastatin
   - hold BB, ACEI, aldactone, lasix
   # Afib:  Currently in sinus.
   - hold amiodarone, BB as hypotensive
   - supratherapeutic
   # Coagulopathy:  Was on coumadin for afib at [**Hospital 7735**].  Only slight
   oozing at RIJ site and mild hemoptysis.
   - follow coags
   - vitamin K 10 mg IV
   - hold coumadin
   - FFP if actively bleeding
   # Elevated Creatinine:  Cr at [**Hospital3 1004**] was 1.5.  Unclear what it was
   prior to that admission.
   - will get PCP records
   [**Name Initial (PRE) **] [**Name9 (PRE) **] dose meds
   # HTN:
   - hold antihypertensives
   # Hyperlipidemia:
   - cont. atorvastatin
   # Asthma
   - cont. atrovent nebulizers
   - cont. Advair
   # Diabetes mellitus type 2:
   - hold metformin while in house
   - ISS
   # GERD:
   - cont. zantac
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2153-10-23 07:25:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-10-22**] 10:30 AM
   OSH info:
   --Presented [**10-10**] with CP
   --Anterior septal STEMI, 3 stents placed to proximal LAD
   --PCWP of 35
   --On levophed and dopamine at OSH
   --Lactate of 4
   ***Taken back to cath lab at StE
s with placement of IABP as proximal
   LAD flow only TIMI 2, cath also showing 90% circ lesion and midLAD,
   distal LAD 80% stenoses.
   --WBC 37.5 on [**10-10**] -treated for CAP with levo, and flagyl for empiric
   C diff given diarrhea
   Still required 2.5 of neo overnight. No other major events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Cefipime - [**2153-10-22**] 02:44 PM
   Ciprofloxacin - [**2153-10-23**] 02:00 AM
   Vancomycin - [**2153-10-23**] 05:46 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-23**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 78 (69 - 101) bpm
   BP: 106/58(69) {69/36(43) - 144/68(85)} mmHg
   RR: 9 (9 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (0 - 20)mmHg
   Total In:
                                                                  1,619 mL
                                                                    709 mL
   PO:
   TF:
   IVF:
                                                                  1,559 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    240 mL
   Urine:
                                                                  1,325 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 560 (370 - 560) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.32/44/99.[**Numeric Identifier 126**]/23/-3
   Ve: 5.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   522 K/uL
   9.4 g/dL
   251 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.8 mEq/L
   36 mg/dL
   106 mEq/L
   138 mEq/L
   29.1 %
   26.2 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
   WBC
   30.8
   26.2
   Hct
   29.0
   29.1
   Plt
   510
   522
   Cr
   1.6
   1.4
   1.3
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   Other labs: PT / PTT / INR:23.8/34.5/2.3, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, in
   septic shock still requiring pressors. Intubated yesterday for
   increased work of breathing.
    # Hypotension:  Given distributive shock, o2 requirement, and CXR
   infiltrate, this is most likely septic shock from RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  CDIFF may also be contributing.  Given CVP=12,
   stable EKG, and serial CE trending down, favor sepsis over cardiogenic
   shock.
   - F/U cultures; no organisms seen on initial gram stain
   - vanco/cefepime/cipro; leukocytosis improving
   - Trend CEs, serial EKGs with any major hemodynamic changes
   - favor neo over levophed given recent MI and acutely depressed EF.
   - trial of fluids in effor to wean pressors, will be cautious given
   acutely depressed LVEF
   # Hypoxemic respiratory failure / increased work of breathing: Likely
   [**1-22**] PNA with some contributiion from astma given severe wheezing on
   exam.  Other concern would be LV failure from ischemia, but arguing
   against this is CVP=12avg.
   - s/p intubation; A-LINE attempts failed, will trend serial ABGS and
   venous gases
   - will attempt to wean PSV from [**11-24**] to [**9-24**], RSBI 28, goal extubate
   tomorrow if tolerates wean
   - steroidsx 5 days, MDIs
   # Diarrhea/Leukocytosis:  Empiric CDIFF covg given marked leukocytosis
   with PO vanco. f/u cdiff tox x2
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.
   - Serial CEs, EKGs for any hemodynamic changes
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   - favor neo over levophed as above; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - therapeutic on coumadin but INR trending down rapidly; resuming
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu, intubated

2153-10-23 09:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Intubated for respiratory distress
   - On pressors
   - OSH records obtained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Cefipime - [**2153-10-22**] 02:44 PM
   Ciprofloxacin - [**2153-10-23**] 02:00 AM
   Vancomycin - [**2153-10-23**] 08:14 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-23**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 78 (69 - 101) bpm
   BP: 100/56(67) {69/36(43) - 144/63(77)} mmHg
   RR: 11 (9 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 70 kg
   CVP: 14 (0 - 20)mmHg
   Total In:
                                                                  1,619 mL
                                                                  1,003 mL
   PO:
   TF:
   IVF:
                                                                  1,559 mL
                                                                    943 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    310 mL
   Urine:
                                                                  1,325 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                    693 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 560 (370 - 560) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.32/44/99.[**Numeric Identifier 126**]/23/-3
   Ve: 5.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   522 K/uL
   251 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.8 mEq/L
   36 mg/dL
   106 mEq/L
   138 mEq/L
   29.1 %
   26.2 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
   WBC
   30.8
   26.2
   Hct
   29.0
   29.1
   Plt
   510
   522
   Cr
   1.6
   1.4
   1.3
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   Other labs: PT / PTT / INR:23.8/34.5/2.3, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR - Persistent RML opacity. ET tube at 2.5 cm.
   Microbiology: No new micro data.
   Assessment and Plan
   Patient is 77 yo female with PMHx sig. for recent massive NSTEMI at OSH
   10 days ago, s/p 3 stents complicated by cardiogenic shock requiring
   IABP x 3 days and pneumonia treated with flagyl and levaquin, who
   presents from rehab with increasing SOB and diarrhea, found to be
   hypotensive and hypoxemic.
   # Hypotension:  Multifactorial with septic shock from RLL pneumonia in
   the setting of poor EF from recent massive NSTEMI.  Pt is also
   reporting diarrhea and may have developed c. diff though on flagyl.
   Off pressors with CVP of 12.
   - F/U cultures
   - Continue vanc/zosyn
   - Trend CEs, serial EKGs
   - Obtain records from [**Hospital3 1004**]
   - Follow up final ECHO
   # Hypoxemic respiratory failure: Likely [**1-22**] PNA with superimposed
   asthma flare.
   - Continue albuterol MDI (not tolerated nebs)
   - Steroids started for asthma flare
   - Pt intubated due to persistent resp distress and high WOB.
   Oxygenation adequate, will check ABG
   # Diarrhea:  Pt reports 1 week of diarrhea.  Could be C. diff, although
   unlikely given recent flagyl.  Elevated WBC count today prompted
   initiation of PO vanc.
   - Check C. diff
   - Continue PO vanc
 will d/c if c. diff neg x 2
   # CAD, s/p recent STEMI, now with EF 20%:  EKG shows no acute ischemic
   changes, per Cardiology, just old massive anterior MI.
   - Serial CEs, EKGs
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   # Afib:  Currently in sinus.
   - hold amiodarone, BB as hypotensive
   - supratherapeutic
   # Coagulopathy:  Was on coumadin for afib at [**Hospital 7735**].  Only slight
   oozing at RIJ site and mild hemoptysis.  Also with elevated PTT.
   - Follow coags
   - Check to see if on SQ heparin at rehab to explain elevated PTT
   - Hold coumadin
   - Check DIC labs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2153-10-24 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ET tube pulled back 1cm.  Repeat CXR with ET tube 3.2 cm above carina
   Coumadin Restarted.
   Fentanyl and Versed weaned down but patient did not tolerate weaning of
   vent.  Remains on PS with MMV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Cefipime - [**2153-10-23**] 03:52 PM
   Ciprofloxacin - [**2153-10-24**] 02:25 AM
   Vancomycin - [**2153-10-24**] 05:58 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 82 (71 - 93) bpm
   BP: 95/47(58) {78/45(58) - 110/67(74)} mmHg
   RR: 13 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 70 kg
    CVP: 12 (7 - 20)mmHg
   Total In:
                                                                  2,349 mL
                                                                    469 mL
   PO:
   TF:
   IVF:
                                                                  2,199 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    390 mL
   Urine:
                                                                    768 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,581 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 567 (226 - 635) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   556 K/uL
   9.2 g/dL
   191 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   42 mg/dL
   110 mEq/L
   141 mEq/L
   28.1 %
   20.5 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
   WBC
   30.8
   26.2
   20.5
   Hct
   29.0
   29.1
   28.1
   Plt
   [**Telephone/Fax (3) 11220**]
   Cr
   1.6
   1.4
   1.3
   1.3
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   191
   Other labs: PT / PTT / INR:24.2/31.4/2.3, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, in
   septic shock still requiring pressors. Intubated yesterday for
   increased work of breathing.
    # Hypotension:  Given distributive shock, o2 requirement, and CXR
   infiltrate, this is most likely septic shock from RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  CDIFF may also be contributing.  Given CVP=12,
   stable EKG, and serial CE trending down, favor sepsis over cardiogenic
   shock.
   - F/U cultures; no organisms seen on initial gram stain
   - vanco/cefepime/cipro; leukocytosis improving
   - Trend CEs, serial EKGs with any major hemodynamic changes
   - favor neo over levophed given recent MI and acutely depressed EF.
   - trial of fluids in effor to wean pressors, will be cautious given
   acutely depressed LVEF
   # Hypoxemic respiratory failure / increased work of breathing: Likely
   [**1-22**] PNA with some contributiion from astma given severe wheezing on
   exam.  Other concern would be LV failure from ischemia, but arguing
   against this is CVP=12avg.
   - s/p intubation; A-LINE attempts failed, will trend serial ABGS and
   venous gases
   - will attempt to wean PSV from [**11-24**] to [**9-24**], RSBI 28, goal extubate
   tomorrow if tolerates wean
   - steroidsx 5 days, MDIs
   # Diarrhea/Leukocytosis:  Empiric CDIFF covg given marked leukocytosis
   with PO vanco. f/u cdiff tox x2
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.
   - Serial CEs, EKGs for any hemodynamic changes
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   - favor neo over levophed as above; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - therapeutic on coumadin but INR trending down rapidly; resuming
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-24 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - On SBT this morning
   - Still on pressors, CVP in low teens
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-22**] 04:19 AM
   Cefipime - [**2153-10-23**] 03:52 PM
   Ciprofloxacin - [**2153-10-24**] 02:25 AM
   Vancomycin - [**2153-10-24**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-24**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 76 (71 - 93) bpm
   BP: 102/49(61) {83/45(58) - 110/67(74)} mmHg
   RR: 16 (8 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   CVP: 17 (7 - 21)mmHg
   Total In:
                                                                  2,349 mL
                                                                    899 mL
   PO:
   TF:
   IVF:
                                                                  2,199 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    670 mL
   Urine:
                                                                    768 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,581 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 378 (226 - 577) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   556 K/uL
   191 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   42 mg/dL
   110 mEq/L
   141 mEq/L
   28.1 %
   20.5 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
   WBC
   30.8
   26.2
   20.5
   Hct
   29.0
   29.1
   28.1
   Plt
   [**Telephone/Fax (3) 11220**]
   Cr
   1.6
   1.4
   1.3
   1.3
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   191
   Other labs: PT / PTT / INR:24.2/31.4/2.3, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR - Improving RLL consolidation, perhaps some resolution of
   atelectasis.  Increased edema.
   Microbiology: Sputum culture negative, Urine culture negative, Blood
   pending
   Assessment and Plan
   Patient is 77 yo female with PMHx sig. for recent massive NSTEMI at OSH
   10 days ago, s/p 3 stents complicated by cardiogenic shock requiring
   IABP x 3 days and pneumonia treated with flagyl and levaquin, who
   presents from rehab with increasing SOB and diarrhea, found to be
   hypotensive and hypoxemic.
   # Hypotension:  Multifactorial with septic shock from RLL pneumonia in
   the setting of poor EF from recent massive NSTEMI.  Pt is also
   reporting diarrhea and may have developed c. diff though on flagyl.
   - F/U cultures
   - Continue vanc/zosyn
   - Genlte IVF + wean pressors
   - Trend CEs, serial EKGs
   # Hypoxemic respiratory failure: Likely [**1-22**] PNA with superimposed
   asthma flare.  Now intubated.
   - Continue albuterol MDI
   - Steroids started for asthma flare
   - Wean PS as tolerated
   # Diarrhea:  Pt reports 1 week of diarrhea.  Could be C. diff, although
   unlikely given recent flagyl.  Elevated WBC count yesterday prompted
   initiation of PO vanc.
   - Check C. diff
   - Continue PO vanc
 will d/c if c. diff neg x 2
   # CAD, s/p recent STEMI, now with EF 20%:  EKG shows no acute ischemic
   changes, per Cardiology, just old massive anterior MI.
   - Serial CEs, EKGs
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   # Afib:  Currently in sinus.
   - Hold amiodarone, BB as hypotensive
   - Restart coumadin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-10-25 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated successfully in am
   - still dependent on neo (small dose), unable to wean completely; held
   off on diuresis as CVP~12 on avg, BP borderline even on pressor
   - given continued absence of diahrrea, d/c'ed empiric covg for CDIFF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-24**] 08:00 AM
   Cefipime - [**2153-10-24**] 04:00 PM
   Ciprofloxacin - [**2153-10-25**] 04:28 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-10-25**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.6
C (96
   HR: 88 (76 - 94) bpm
   BP: 98/48(60) {92/46(60) - 116/70(77)} mmHg
   RR: 15 (0 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
    CVP: 16 (7 - 21)mmHg
   Total In:
                                                                  1,706 mL
                                                                    433 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,206 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    415 mL
   Urine:
                                                                  1,440 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    266 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 378 (378 - 495) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   457 K/uL
   9.3 g/dL
   182 mg/dL
   1.2 mg/dL
   26 mEq/L
   5.0 mEq/L
   46 mg/dL
   109 mEq/L
   141 mEq/L
   28.3 %
   16.5 K/uL
         [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
                             [**2153-10-25**]  04:13 AM
   WBC
   30.8
   26.2
   20.5
   16.5
   Hct
   29.0
   29.1
   28.1
   28.3
   Plt
   [**Telephone/Fax (3) 11234**]57
   Cr
   1.6
   1.4
   1.3
   1.3
   1.2
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   191
   182
   Other labs: PT / PTT / INR:25.7/31.5/2.5, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, in
   septic shock still requiring pressors. Intubated yesterday for
   increased work of breathing.
    # Hypotension:  Given distributive shock, o2 requirement, and CXR
   infiltrate, this is most likely septic shock from RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  Given CVP=12, stable EKG, and serial CE
   trending down, strongly favor sepsis over cardiogenic shock.
   - F/U cultures; no organisms seen on initial gram stain
   - vanco/cefepime/cipro; leukocytosis improving
   - Trend CEs, serial EKGs with any major hemodynamic changes
   - favor neo over levophed given recent MI and acutely depressed EF.
   - trial of fluids in effor to wean pressors, will be cautious given
   acutely depressed LVEF
   # Hypoxemic respiratory failure / increased work of breathing: Likely
   [**1-22**] PNA with some contributiion from asthma given severe wheezing on
   exam.  .Tolerating SBT well this am.
   - extubate, BIPAP if flashes
   - steroidsx 5 days, MDIs
   # Diarrhea/Leukocytosis:  d/c empiric CDIFF covg given lack of
   diahrrea. f/u cdiff tox x2 when stools
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.
   - Serial CEs, EKGs for any hemodynamic changes
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   - favor neo over levophed; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - therapeutic on coumadin but INR trending down rapidly; resumed
   coumadin yesterday
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-25 08:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Extubated and O2 weaned
   - Pressor weaned down to 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-24**] 08:00 AM
   Cefipime - [**2153-10-24**] 04:00 PM
   Ciprofloxacin - [**2153-10-25**] 04:28 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-10-25**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-25**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 94 (76 - 94) bpm
   BP: 101/57(68) {92/46(60) - 116/70(77)} mmHg
   RR: 18 (0 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   CVP: 16 (7 - 20)mmHg
   Total In:
                                                                  1,706 mL
                                                                    450 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,206 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    415 mL
   Urine:
                                                                  1,440 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    266 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 378 (378 - 495) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   457 K/uL
   182 mg/dL
   1.2 mg/dL
   26 mEq/L
   5.0 mEq/L
   46 mg/dL
   109 mEq/L
   141 mEq/L
   28.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-10-21**]  11:00 PM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  09:54 AM
                             [**2153-10-22**]  01:58 PM
                             [**2153-10-22**]  02:20 PM
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
                             [**2153-10-25**]  04:13 AM
   WBC
   30.8
   26.2
   20.5
   16.5
   Hct
   29.0
   29.1
   28.1
   28.3
   Plt
   [**Telephone/Fax (3) 11234**]57
   Cr
   1.6
   1.4
   1.3
   1.3
   1.2
   TropT
   1.93
   1.48
   1.30
   1.06
   TCO2
   23
   24
   Glucose
   230
   206
   251
   191
   182
   Other labs: PT / PTT / INR:25.7/31.5/2.5, CK / CKMB /
   Troponin-T:77//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR - Improving infiltrates.
   Microbiology: No new culture data.
   Assessment and Plan
   Patient is 77 yo female with PMHx sig. for recent massive NSTEMI at OSH
   10 days ago, s/p 3 stents complicated by cardiogenic shock requiring
   IABP x 3 days and pneumonia treated with flagyl and levaquin, who
   presents from rehab with increasing SOB and diarrhea, found to be
   hypotensive and hypoxemic.
   # Hypotension:  Multifactorial with septic shock from RLL pneumonia in
   the setting of poor EF from recent massive NSTEMI.
   - F/U cultures
   - Continue vanc/cefepime/cipro (adjust doses based on improved
   creatinine)
   - D/c c. diff coverage given no stool output here
   - Genlte IVF + wean pressors
   # Hypoxemic respiratory failure: Likely [**1-22**] PNA with superimposed
   asthma flare.  Intubated [**10-23**].
   - Continue albuterol MDI
   - Steroids started for asthma flare
   - Extubate today
   - Wean O2 as tolerated and check ABG
   # CAD, s/p recent STEMI, now with EF 20%:  EKG shows no acute ischemic
   changes, per Cardiology, just old massive anterior MI.
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix
   # Afib:  Currently in sinus.
   - Hold amiodarone, BB as hypotensive
   - Restart coumadin
   ICU Care
   Nutrition:
   Comments: Advance as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2153-10-26 05:59:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-10-25**] 07:15 PM  -secondary to
   hypoxemia and respiratory distress
 ARTERIAL LINE - START [**2153-10-25**] 10:00 PM -placed
   -20 beat run of VT
   -hypotensive after intubation. Resolved with 500cc bolus.Did not
   require pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-25**] 08:00 AM
   Cefipime - [**2153-10-25**] 04:00 PM
   Ciprofloxacin - [**2153-10-26**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-10-25**] 06:00 PM
   Furosemide (Lasix) - [**2153-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-26**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 80 (70 - 125) bpm
   BP: 108/60(79) {91/51(66) - 124/69(92)} mmHg
   RR: 14 (10 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
             Total In:
                                                                  1,816 mL
                                                                    269 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,666 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    455 mL
   Urine:
                                                                  1,780 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     36 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 443 (443 - 443) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 34
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/43/120/25/1
   Ve: 6.2 L/min
   PaO2 / FiO2: 343
   Physical Examination
   Gen: Intubated, sedated, NAD
   Neck: Supple, no LAD
   Lungs: Bronchial breath sounds at R base. Diffuse expiratory wheezes
   bilaterally.
   CV: RRR. No murmurs.
   Abdomen: Soft, NT, ND. No masses. No rebound or guarding.
   Extremities: Warm, well perfused. No LE edema.
   Labs / Radiology
   355 K/uL
   8.7 g/dL
   180 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.8 mEq/L
   50 mg/dL
   107 mEq/L
   141 mEq/L
   26.2 %
   13.1 K/uL
        [image002.jpg] All culture data is pending
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
                             [**2153-10-25**]  04:13 AM
                             [**2153-10-25**]  06:19 PM
                             [**2153-10-25**]  09:37 PM
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
   WBC
   26.2
   20.5
   16.5
   11.7
   13.1
   Hct
   29.1
   28.1
   28.3
   25.5
   26.2
   Plt
   522
   556
   457
   320
   355
   Cr
   1.3
   1.3
   1.2
   1.2
   1.2
   TropT
   1.06
   TCO2
   26
   25
   26
   28
   28
   Glucose
   [**Telephone/Fax (3) 11260**]43
   180
   Other labs: PT / PTT / INR:36.0/32.9/3.7, CK / CKMB /
   Troponin-T:73//1.06, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, with
   septic shock, reintubated overnight.
    # Hypotension:  Resolved.  Thought to be secondary to distributive
   shock, o2 requirement, in the setting of RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  Given CVP=12, stable EKG, and serial CE
   trending down, strongly favor sepsis over cardiogenic shock.
   - F/U cultures; no organisms seen on initial gram stain
   - vanco/cefepime/cipro; leukocytosis improving
   - favor neo over levophed if needed given recent MI and acutely
   depressed EF.
   # Hypoxemic respiratory failure / increased work of breathing:
   Decompensated overnight.  Likely [**1-22**] PNA, asthma, and ? fluid overload.
   CEs at that time negative. EKG unchanged from prior. PE unlikely given
   supratherapeutic on coumadin.
   - attempt to wean ventilation
   -continue broad spectrum vanc, cipro, cefepime day 6 of 8 for HA pna
   - day 4 of 5 of steroids for asthma
   -continue MDIs
   -lasix gtt with goal I/Os of -1L if BP tolerates
   -cycle Ces
   -Cardiology consult to eval whether hypoxia [**1-22**] cardiac etiology given
   recent STEMI
   -bilateral LENIs
if negative, consider CTA tomorrow if continues to be
   hypoxic
   # Diarrhea/Leukocytosis:  resolved.
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.  Patient had 20 beat run of VT
   yesterday evening after being intubated.
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix given just weaned off pressors this
   morning. Consider restarting BB in AM if BP tolerates.
   - favor neo over levophed if needed; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   - f/u cardiology recs
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - supratherapeutic on coumadin
hold coumadin today
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-26 09:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Reintubated for respiratory distress
   - A line placed
   - Borderline BP after intubation, but resolved with 500cc NS\
   - 20 beat run of VT after intubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-25**] 04:00 PM
   Ciprofloxacin - [**2153-10-26**] 04:00 AM
   Vancomycin - [**2153-10-26**] 08:23 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-10-25**] 06:00 PM
   Furosemide (Lasix) - [**2153-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-26**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 85 (70 - 125) bpm
   BP: 105/58(78) {91/51(66) - 124/69(92)} mmHg
   RR: 16 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
             Total In:
                                                                  1,816 mL
                                                                    554 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,666 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    655 mL
   Urine:
                                                                  1,780 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     36 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 475 (443 - 475) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 34
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/43/120/25/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   355 K/uL
   180 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.8 mEq/L
   50 mg/dL
   107 mEq/L
   141 mEq/L
   26.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2153-10-23**]  04:54 AM
                             [**2153-10-24**]  04:16 AM
                             [**2153-10-25**]  04:13 AM
                             [**2153-10-25**]  06:19 PM
                             [**2153-10-25**]  09:37 PM
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
   WBC
   26.2
   20.5
   16.5
   11.7
   13.1
   Hct
   29.1
   28.1
   28.3
   25.5
   26.2
   Plt
   522
   556
   457
   320
   355
   Cr
   1.3
   1.3
   1.2
   1.2
   1.2
   TropT
   1.06
   0.60
   TCO2
   26
   25
   26
   28
   28
   Glucose
   [**Telephone/Fax (3) 11260**]43
   180
   Other labs: PT / PTT / INR:36.0/32.9/3.7, CK / CKMB /
   Troponin-T:73//0.60, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR - Worsening pulmonary edema.
   Microbiology: No new culture data.
   Assessment and Plan
   Patient is 77 yo female with PMHx sig. for recent massive NSTEMI at OSH
   10 days ago, s/p 3 stents complicated by cardiogenic shock requiring
   IABP x 3 days and pneumonia treated with flagyl and levaquin, who
   presents from rehab with diarrhea, hypotension and respiratory distress
   progressing into acute respiratory failure- dx
d with HAP PNA/asthma
   flare. Extubated [**10-24**] and doing well on 4 L NC until [**10-25**] pm when she
   was reintubated.
   # Hypoxemic respiratory failure: Initially [**1-22**] PNA with superimposed
   asthma flare.  Extubated [**10-24**].  Developed acute respiratory distress
   11/5pm requiring re-intubation for obtundation and mottled appearance.
   Unclear etiology (VBG 4.32/42 and sats in high 90s on 4L prior to
   obtundation), but likely due to volume status and large anxiety
   component.  Now looks extubatable, but hesitant given unclear event
   that led to reintubation.  Differential includes pulmonary edema,
   anxiety, oversedation with ativan, HAP, PE, and acute bronchspasm.
   - Continue albuterol MDI; on steroids for asthma flare
 Day [**3-25**]
   - Lasix gtt to diuresis given borderline BP
   - Continue abx for HAP
   - Versed gtt for anxiety
   - LE dopplers to r/o DVT as PE is consideration for acute episode last
   pm
   - SBT today, RSBI 37
 Decrease PS 5/5 and plan to extubate tomorrow
   - Cardiology consult
   # Hypotension:  Multifactorial with septic shock from RLL pneumonia in
   the setting of poor EF from recent massive NSTEMI.
   - Continue vanc/cefepime/cipro
 Day [**5-28**]
   - Off pressors since [**10-25**] am
   # CAD, s/p recent STEMI, now with EF 20%:  EKG shows no acute ischemic
   changes, per Cardiology, just old massive anterior MI.
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, and aldactone; restart when BP allows
   - Cardiology consult to evaluate for cardaic etiology of events last pm
   # Afib:  Currently in sinus.
   - Restart amiodarone, BB when BP allows
   - On coumadin
 hold today
s dose and decreease dose (INR 3.7)
   #FEN: Bowel regimen. NPO
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT: Boots, Coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   relevant portions of services provided. I agree with Dr. [**Last Name (STitle) 4368**]
s note
   as outlined above, and would add: 77 yo female with recent STEMI
   requiring IABP/stent, admitted with resp distress/acute respiratory
   failure from HAP and asthma flare. Extubated morning of [**10-24**] well until
   yesterday evening. Preceding events prior to acute decompensation
   mostly notable for gradual sinus tachycardia and pt
s complaints of
   breathlessness, though no change in oxygen requirement or PE.
   Reportedly with diffuse wheezing immediately pre-intubation, lung exam
   clear today. Serial CXR
s mostly identify ongoing fluid overload though
   not especially different  yesterday. Ventilator requirements were
   rapidly weaned and she currently looks comfortable on PSV.
   CXR is not suggestive of a new HAP, airway pathophysiology feasible but
   not highly c/w the improvt in lung exam, in the absence of additional
   intervention. Recent decompensation could be from volume overload as
   her borderline BP
s have prevented us from diuresing her before.
   As pt finally off pressors, will begin lasix gtt to diurese, have
   cardiology consult team see her. Plan SBT early tomorrow with hopeful
   plans to extubate early in the day. If she can tolerate without this
   aggravating her anxiety, early NIPPV might be considered, either
   immediately following extubation or otherwise with ABG drawn later in
   the day.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-10-26**] 16:46 ------

2153-10-27 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2153-10-26**] 11:15 AM
   bilat leg U/S
   Cardiology consulted.  Agreed that CHF playing a role in her
   respiratory distress.  Started Lasix gtt, diuresed well.
   LENIS negative
   Plan for extubation this morning if doing well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 08:23 AM
   Cefipime - [**2153-10-26**] 04:00 PM
   Ciprofloxacin - [**2153-10-27**] 04:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-10-27**] 07:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-27**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.5
   HR: 81 (76 - 99) bpm
   BP: 113/58(80) {104/55(75) - 173/162(168)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,082 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  1,032 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                  1,000 mL
   Urine:
                                                                  2,685 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,603 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 481 (400 - 481) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/46/125/29/7
   Ve: 5.3 L/min
   PaO2 / FiO2: 357
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   9.1 g/dL
   199 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   45 mg/dL
   103 mEq/L
   138 mEq/L
   27.6 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-10-25**]  06:19 PM
                             [**2153-10-25**]  09:37 PM
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
                             [**2153-10-26**]  05:57 PM
                             [**2153-10-27**]  03:40 AM
                             [**2153-10-27**]  06:21 AM
   WBC
   11.7
   13.1
   16.5
   Hct
   25.5
   26.2
   27.6
   Plt
   [**Telephone/Fax (3) 11296**]
   Cr
   1.2
   1.2
   1.1
   1.1
   TropT
   0.60
   TCO2
   26
   25
   26
   28
   28
   33
   Glucose
   243
   180
   281
   199
   Other labs: PT / PTT / INR:44.1/34.5/4.7, CK / CKMB /
   Troponin-T:73//0.60, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, with
   septic shock, reintubated overnight.
    # Hypotension:  Resolved.  Thought to be secondary to distributive
   shock, o2 requirement, in the setting of RLL pneumonia poorly
   compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  Given CVP=12, stable EKG, and serial CE
   trending down, strongly favor sepsis over cardiogenic shock.
   - F/U cultures; no organisms seen on initial gram stain
   - vanco/cefepime/cipro; leukocytosis improving
   - favor neo over levophed if needed given recent MI and acutely
   depressed EF.
   # Hypoxemic respiratory failure / increased work of breathing:
   Decompensated overnight.  Likely [**1-22**] PNA, asthma, and ? fluid overload.
   CEs at that time negative. EKG unchanged from prior. PE unlikely given
   supratherapeutic on coumadin.
   - attempt to wean ventilation
   -continue broad spectrum vanc, cipro, cefepime day 6 of 8 for HA pna
   - day 4 of 5 of steroids for asthma
   -continue MDIs
   -lasix gtt with goal I/Os of -1L if BP tolerates
   -cycle Ces
   -Cardiology consult to eval whether hypoxia [**1-22**] cardiac etiology given
   recent STEMI
   -bilateral LENIs
if negative, consider CTA tomorrow if continues to be
   hypoxic
   # Diarrhea/Leukocytosis:  resolved.
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.  Patient had 20 beat run of VT
   yesterday evening after being intubated.
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, lasix given just weaned off pressors this
   morning. Consider restarting BB in AM if BP tolerates.
   - favor neo over levophed if needed; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   - f/u cardiology recs
   # Afib:  Currently in sinus.
   - hold BB as hypotensive, resume amio soon (although long half-life
   means she will be therapeutic for a while)
   - supratherapeutic on coumadin
hold coumadin today
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: H2RA, supratherapeutic inr, bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-27 17:51:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, volume overload s/p NSTEMI
   HPI:
   77F (recent large STEMI at OSH in past 2 weeks, s/p PCI to LAD c/b
   cardiogenic shock requiring IABP. Hospital course also c/b PNA. Pt
   presented with increasing SOB, diarrhea and was found to be hypotensive
   and hypoxemic.  Pt intubated for worsening respiratory distress,
   extubated
   [**10-24**] then re-intubated on [**10-25**] [**1-22**] acute respiratory distress.
   24 Hour Events:
   Extubated this AM to nasal cannula.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-27**] 08:00 AM
   Ciprofloxacin - [**2153-10-27**] 03:39 PM
   Cefipime - [**2153-10-27**] 05:04 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-10-27**] 09:55 AM
   Fentanyl - [**2153-10-27**] 09:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2153-10-27**] 05:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 98 (76 - 100) bpm
   BP: 125/65(90) {104/55(75) - 173/162(168)} mmHg
   RR: 18 (11 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,082 mL
                                                                  1,373 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  1,032 mL
                                                                    953 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                  2,410 mL
   Urine:
                                                                  2,685 mL
                                                                  2,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,603 mL
                                                                 -1,037 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 400 (400 - 481) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.45/46/125/31/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 357
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   410 K/uL
   308 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.3 mEq/L
   42 mg/dL
   97 mEq/L
   135 mEq/L
   27.6 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-10-25**]  09:37 PM
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
                             [**2153-10-26**]  05:57 PM
                             [**2153-10-27**]  03:40 AM
                             [**2153-10-27**]  06:21 AM
                             [**2153-10-27**]  03:54 PM
   WBC
   11.7
   13.1
   16.5
   Hct
   25.5
   26.2
   27.6
   Plt
   [**Telephone/Fax (3) 11296**]
   Cr
   1.2
   1.2
   1.1
   1.1
   1.2
   TropT
   0.60
   TCO2
   25
   26
   28
   28
   33
   Glucose
   243
   180
   281
   199
   308
   Other labs: PT / PTT / INR:44.1/34.5/4.7, CK / CKMB /
   Troponin-T:73//0.60, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   77F (recent large NSTEMI at OSH in past 2 weeks, s/p PCI to LAD c/b
   cardiogenic shock requiring IABP. Hospital course also c/b PNA. Pt
   presented with increasing SOB, diarrhea and was found to be hypotensive
   and hypoxemic.  Pt now re-extubated to nasal cannula with continued
   volume overload.
   #Hypoxemic respiratory failure s/p extubation this AM
   [] CPAP
   [] diuresis (goal I/O -2L+)
   [] ABG this PM
   #s/p STEMI, EF25%
   - cont ASA, plavix, statin
   - defer BB and ACEI today in setting of recent hypoTN and goal to
   diurese, will re-assess in AM
   #Increasing WBC (16). Etiology is unclear. PNA being treated, no focal
   source of infection. Steroids is a possible source.
   [] resend u/a and urine cx
   [] vanc level, increase vanc dosing in setting of improved ARF
   [] C Diff if stool
   -PNA: on vanc / cefepime / cipro (day 7 of 8)
   #Asthma: Completed solumedrol x5d today
   #Elevated INR 4.7 on coumadin (on cipro) (for low EF/AF)
   [] hold coumadin
   ICU Care
   Nutrition:
   Comments: NPO until able to assess swallowing post-extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with Dr. [**First Name (STitle) 575**]
   note, including assessment and plan. I would add; 77 yo female with
   recent STEMI req/ stent and IABP, admitted with acute respiratory
   failure from asthma/HAP.  Extubated earlier this week, only to develop
   acute respiratory distress the evening afterwards requiring
   re-intubation. BNP of 25,000
 previously prevented from diuresing by
   marginal BP/pressor requirement. , BP improved and responding well to
   lasix gtt. Extubated this morning.
   Oxygen requirement now down to 2liters n.c.- however, it was similarly
   down before she last decompensated. Given that and the apparent degree
   of volume overload, will try pt on NIPPV/CPAP while we continue to
   diurese.
   Leukocytosis noted this morning, infectious source unclear.  She has
   nearly completed her course of abx for HAP. Will pan culture.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-10-27**] 18:17 ------

2153-10-28 07:24:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-10-27**] 10:43 AM
   - good UOP on lasix drip, continued
   - restarting ace-i and BB this AM
   - Pt very uncomfortable with CPAP
   - WBC rising to 20 from 10 in two days, stooling all night, started on
   po Vanco, cdiff sent
   - coumadin held as INR still supratherapeutic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-27**] 08:00 AM
   Cefipime - [**2153-10-27**] 05:04 PM
   Ciprofloxacin - [**2153-10-28**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-10-27**] 09:55 AM
   Fentanyl - [**2153-10-27**] 09:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 89 (81 - 108) bpm
   BP: 137/75(101) {111/58(80) - 167/124(144)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,455 mL
                                                                    346 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,035 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                    920 mL
   Urine:
                                                                  3,090 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                   -574 mL
   Respiratory support
   2L nasal cannula
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   421 K/uL
   9.4 g/dL
   176 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.0 mEq/L
   41 mg/dL
   97 mEq/L
   139 mEq/L
   28.0 %
   21.3 K/uL
        [image002.jpg] No new culture data
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
                             [**2153-10-26**]  05:57 PM
                             [**2153-10-27**]  03:40 AM
                             [**2153-10-27**]  06:21 AM
                             [**2153-10-27**]  03:54 PM
                             [**2153-10-28**]  04:10 AM
   WBC
   13.1
   16.5
   21.3
   Hct
   26.2
   27.6
   28.0
   Plt
   355
   410
   421
   Cr
   1.2
   1.1
   1.1
   1.2
   1.2
   TropT
   0.60
   TCO2
   25
   26
   28
   28
   33
   Glucose
   180
   281
   199
   308
   176
   Other labs: PT / PTT / INR:42.0/34.8/4.4, CK / CKMB /
   Troponin-T:73//0.60, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.0 mg/dL
   Microbiology: [**10-21**] Urine culture negative
   11/2 Blood culture x1 negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
 SHOCK, SEPTIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   77 yo female s/p recent STEMI at OSH 10 days ago, s/p 3 stents & IABP x
   3 days for cardiogenic shock; had pneumonia treated with flagyl and
   levaquin, presented from rehab with increasing SOB and diarrhea, with
   septic shock.
    # Sepsis/Hypotension:  Resolved.  Thought to be secondary to
   distributive shock, o2 requirement, in the setting of RLL pneumonia
   poorly compensated in the setting of an acutely depressed EF s/p recent
   myocardial infarction.  Given CVP=12, stable EKG, and serial CE
   trending down, strongly favor sepsis over cardiogenic shock.
   - F/U cultures; no organisms seen on initial gram stain
   - Completed 8 day course of vanco/cefepime/cipro empirically for HAP
   # Hypoxemic respiratory failure / increased work of breathing:
   resolvied.  Likely [**1-22**] PNA, asthma, and ? fluid overload. CEs at that
   time negative. EKG unchanged from prior.
   -completed 8 days of broad spectrum vanc, cipro, cefepime for HA pna
   - completed 5 days of steroids for asthma
   -continue MDIs
   -lasix gtt with goal I/Os of -2L if BP tolerates
   -d/c non invasive ventilation as patient does not tolerate
   # leukocytosis: WBC 21.3, up from 13.1 two days prior. Patient having
   abdominal cramping, and stool output after broad spectrum abx.
   Afebrile.
   -continue po vanc empirically for C diff
   -send C diff
   -UA, Ucx, Blood cultures negative to date
   # CAD, s/p recent STEMI, now with EF 20%: Cardiac enzymes continually
   trending down suggesting that ACS is not contributing. EKG relatively
   stable, some rate dependent ST depressions inferiorly.  Previously
   under the impression that pt had been completely re-vascularized, but
   it seems that there are 80% lesions in mid and distal LAD along with
   90% circ lesion which have not been intervened upon as they were not
   felt to be cultprits in Acute MI.  Patient had 20 beat run of VT
   - Cont. ASA, plavix, high dose atorvastatin
   - Hold BB, ACEI, aldactone, while aggressively diuresising, but resume
   ASAP
   - favor neo over levophed if needed; goal HR as close to 60 as feasible
   - given degree of akinesis/infarct, pt should maintain therapeutic INR
   and be bridged with heparin for INR<2 to prevent LV thrombus
   - f/u cardiology recs
   # Afib:  Currently in sinus.
   - hold BB as as above, resume amio (although long half-life means she
   will be therapeutic for a while)
   - supratherapeutic on coumadin
hold coumadin today
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: H2RA, supratherapeutic inr
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  Daughter [**Name2 (NI) 455**] and son-in-law [**Doctor Last Name 11164**] cell
   [**Telephone/Fax (1) 11165**], [**Doctor First Name 11166**] cell [**Telephone/Fax (1) 11167**], home [**Telephone/Fax (1) 11168**].
   # DISPO: call out to [**Hospital Unit Name 11246**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-28 08:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure (improved), s/p MI
   HPI: 77F (recent large STEMI at OSH in past 2 weeks, s/p PCI to LAD c/b
   cardiogenic shock requiring IABP. Hospital course also c/b PNA. Pt
   presented with increasing SOB, diarrhea and was found to be hypotensive
   and hypoxemic.  Pt now re-extubated to nasal cannula with improvement
   in volume overload.
   24 Hour Events:
 Extubated: INVASIVE VENTILATION - STOP [**2153-10-27**] 10:43 AM
   BB and ACEI restarted O/N
   CPAP not tolerated O/N.
   Much stool o/n, started on empiric vanc PO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-27**] 05:04 PM
   Ciprofloxacin - [**2153-10-28**] 04:00 AM
   Vancomycin - [**2153-10-28**] 07:58 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-10-27**] 09:55 AM
   Fentanyl - [**2153-10-27**] 09:55 AM
   Lorazepam (Ativan) - [**2153-10-28**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-28**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 89 (82 - 108) bpm
   BP: 137/75(101) {111/61(81) - 167/124(144)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,455 mL
                                                                    609 mL
   PO:
                                                                    300 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,035 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,100 mL
   Urine:
                                                                  3,090 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                   -491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 583 (389 - 583) mL
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 2.4 L/min
   Physical Examination
   Gen: A/Ox3, NAD
   HEENT: oropharynx clear
   Cor: RRR, no m/r/g
   Lung: bilateral coarse BS
   Abd: soft NT +BS
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Skin:  Intact
   Neurologic: non-focal
   Labs / Radiology
   9.4 g/dL
   421 K/uL
   176 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.0 mEq/L
   41 mg/dL
   97 mEq/L
   139 mEq/L
   28.0 %
   21.3 K/uL
        [image002.jpg]
                             [**2153-10-25**]  10:35 PM
                             [**2153-10-25**]  11:48 PM
                             [**2153-10-26**]  01:12 AM
                             [**2153-10-26**]  02:12 AM
                             [**2153-10-26**]  03:06 AM
                             [**2153-10-26**]  05:57 PM
                             [**2153-10-27**]  03:40 AM
                             [**2153-10-27**]  06:21 AM
                             [**2153-10-27**]  03:54 PM
                             [**2153-10-28**]  04:10 AM
   WBC
   13.1
   16.5
   21.3
   Hct
   26.2
   27.6
   28.0
   Plt
   355
   410
   421
   Cr
   1.2
   1.1
   1.1
   1.2
   1.2
   TropT
   0.60
   TCO2
   25
   26
   28
   28
   33
   Glucose
   180
   281
   199
   308
   176
   Other labs: PT / PTT / INR:42.0/34.8/4.4, CK / CKMB /
   Troponin-T:73//0.60, Alk Phos / T Bili:/0.6, Fibrinogen:817 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:446 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   77F (recent large NSTEMI at OSH in past 2 weeks, s/p PCI to LAD c/b
   cardiogenic shock requiring IABP. Hospital course also c/b PNA. Pt
   presented with increasing SOB, diarrhea and was found to be hypotensive
   and hypoxemic.  Pt now re-extubated to nasal cannula with continued
   volume overload.
   #Hypoxemic respiratory failure s/p extubation yesterday. CXR improved,
   esp in lower fields c/w diuresis. On 2L NC
   --completed vanc /cefepime / cipro today (day 8 of 8), s/p steroids
   x5d.
   [] diuresis with lasix gtt (goal I/O -2L+), BUN/CR stable.
   #s/p STEMI, EF25%
   - cont ASA, plavix, statin, BB ACEI
   - diuresis as above
   #Afib: cont BB
   #Increasing WBC (16
 21). Etiology is unclear. PNA being treated, no
   focal source of infection. Steroids is a possible source.
   --vanc / cefepime / cipro completed today
   --now on vanc PO until C Diff ab result returns
   [] send C Diff, U/A + urine cx
   #Elevated INR 4.7
 4.4
   [] coumadin held
   #Deconditioning: PT c/s
   #Asthma: Completed solumedrol x5d yesterday
   ICU Care
   Nutrition: PO diet
   Glycemic Control : good glucose control
   Lines:
   Multi Lumen - [**2153-10-21**] 09:30 PM
   Arterial Line - [**2153-10-25**] 10:00 PM
   Prophylaxis:
   DVT: elevated INR
   Stress ulcer: n/a
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Callout to [**Hospital1 1896**] (Dao wished to be attd)
   Total time spent: 30 mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She is doing well on a lasix infusion which will be titrated for
   clinical response as she transitions out of ICU later today. Cardiology
   staff to advise regarding long term management.
   Remainder of plan as outlined above.
   Patient is chronically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2153-10-28**] 16:00 ------